US07544672B2
Step 1: Pent-4-ynyl-carbamic acid tert-butyl ester
A solution of pent-4-ynylamine (480 mg; Li, Y. et al. J. Am. Chem. Soc. 1996, 118, 9295) in DCM (5 mL) was treated with (BOC)2O at rt for 15 min. Evaporation gave the title compound as a colorless oil. 1H NMR (CDCl3) δ 4.68 (s, 1H), 3.24 (q, 2H), 2.25 (td, 2H), 1.97 (t, 1H), 1.70 (quint., 2H), 1.45 (s, 9H).

reactant | pent-4-ynylamine | 480 mg | C(CCC#C)N | C5H9N
reactant | (BOC)2O | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | Pent-4-ynyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCC#C)=O | C10H17NO2
